US04705554
1-[4-(2,3-dihydro-2,2-dimethyl-7-benzofuranyloxy)phenyl]-3-methoxy-3-methylurea
1.5 g of 4-(2,3-dihydro-2,2-dimethyl-7-benzofuranyloxy)aniline was dissolved in 20 ml of N,N-dimethylformamide, and 0.8 g of N-methoxy-N-methylcarbamoyl chloride was gradually added to this solution at room temperature. After 1.5 hours, N,N-dimethylformamide was distilled off under reduced pressure. The residue was dissolved in ethyl acetate, washed with water and dried over magnesium sulfate. After distilling off the solvent, the residual oily substance was purified by silica gel column chromatography by using a solvent mixture of ethyl acetate/n-hexane=1/4 as the developer, to obtain 1.4 g of compound No. 2 as identified in Table 1.

reactant | 4-(2,3-dihydro-2,2-dimethyl-7-benzofuranyloxy)aniline | 1.5 g | CC1(OC2=C(C1)C=CC=C2OC2=CC=C(N)C=C2)C | C16H17NO2
reactant | N-methoxy-N-methylcarbamoyl chloride | 0.8 g | CON(C(=O)Cl)C | C3H6ClNO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-[4-(2,3-dihydro-2,2-dimethyl-7-benzofuranyloxy)phenyl]-3-methoxy-3-methylurea | 1.4 g | CC1(OC2=C(C1)C=CC=C2OC2=CC=C(C=C2)NC(=O)N(C)OC)C | C19H22N2O4
